US07652051B2
Synthesis of 4-Bromo-N-{5-[4-(pyridin-3-yloxy)phenyl]-1,3,4-oxadiazol-2-yl}-benzamide
5-[4-(Pyridin-3-yloxy)phenyl]-1,3,4-oxadiazol-2-amine hydrobromide salt (167.5 mg, 0.5 mmol) was suspended in 2 mL of anhydrous pyridine. 4-Bromobenzoyl chloride (164.6 mg, 0.75 mmol) was added to the solution. The reaction mixture formed an orange-red solution with a small amount of white precipitate. It was left to stir for 3 hours. Then it was diluted with ca. 1 mL of MeOH, filtered through 0.22 u syringe filter and purified by reverse phase preparative HPLC using acetonitrile/water mixture containing 0.01% of TFA. Fractions, containing the product, were combined and partitioned between ca. 40 mL of EtOAc and ca. 40 mL of saturated aqueous NaHCO3. The EtOAc layer was washed with brine, dried over anhydrous sodium sulfate and filtered. Solvent was removed in vacuo to give the title product as a yellow solid (46.5 mg). Yield 21.2%.

reactant | 5-[4-(Pyridin-3-yloxy)phenyl]-1,3,4-oxadiazol-2-amine hydrobromide salt | 0.5 mmol, 167.5 mg | Br.N1=CC(=CC=C1)OC1=CC=C(C=C1)C1=NN=C(O1)N
reactant | 4-Bromobenzoyl chloride | 0.75 mmol, 164.6 mg | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | ca. 1 mL | CO | CH4O
product | 4-Bromo-N-{5-[4-(pyridin-3-yloxy)phenyl]-1,3,4-oxadiazol-2-yl}-benzamide | 46.5 mg, Yield 21.2% | BrC1=CC=C(C(=O)NC=2OC(=NN2)C2=CC=C(C=C2)OC=2C=NC=CC2)C=C1 | C20H13BrN4O3
